US04151201
2-hydroxy-4-acetylaminobenzaldehyde
By operating according to Example 13, but using anisole as the solvent and a temperature of 100° C., and starting from 15.1 g of 3-acetylaminophenol, 9.0 g of a product (yield on the theoretical value=50%) having a melting point at 185°-186° C. were obtained.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 3-acetylaminophenol | 15.1 g | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
product | 2-hydroxy-4-acetylaminobenzaldehyde | OC1=C(C=O)C=CC(=C1)NC(C)=O | C9H9NO3
